US09169242B2
Step 2: 2,6-Difluoro-N-(4-(4,4,5,5,-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)benzamide:
N-(4-Bromophenyl)-2,6-difluorobenzamide (5.0 g, 16.1 mmol, 1.0 eq) was reacted with bis(pinacolato)diboron (4.88 g, 19.2 mmol, 1.2 eq) by following the procedure described in step 6 of intermediate 1 to afford 4.20 g of the desired product as a white solid. 1HNMR (400 MHz, DMSO-d6) δ 10.92 (brs, 1H, D2O exchangeable), 7.72-7.64 (m, 4H), 7.62-7.56 (m, 1H), 7.26 (t, J=8.0 Hz, 2H), 1.29 (s, 12H); ESI-MS (m/z) 360 (MH)+.

reactant | N-(4-Bromophenyl)-2,6-difluorobenzamide | 16.1 mmol, 5.0 g, 1.0 eq | BrC1=CC=C(C=C1)NC(C1=C(C=CC=C1F)F)=O | C13H8BrF2NO
reactant | bis(pinacolato)diboron | 19.2 mmol, 4.88 g, 1.2 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 2,6-Difluoro-N-(4-(4,4,5,5,-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)benzamide | 4.20 g | FC1=C(C(=O)NC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C(=CC=C1)F | C19H20BF2NO3
